US07371869B2
To a solution of benzyloxycarbonylamino-hydroxy-acetic acid (5.9 g, 26.2 mmol) (prepared according to the procedure of E. H. W. Bohme, et al., J. Med. Chem, 1980, 23, 405-412) and 2-methylanisole (3.2 g, 26.2 mmol) in acetic acid (150 mL) was added concentrated sulfuric acid (15 mL). The mixture was stirred at room temperature for 1 hour, then poured into ice/water and extracted with ethyl acetate (2×200 mL). The combined organic extracts were dried over sodium sulfate and concentrated to give an oily residue. The residue was triturated in hexanes, the precipitate formed was collected by filtration and dried overnight to give crude benzyloxycarbonylamino-(4-methoxy-3-methyl-phenyl)-acetic acid as a white solid (8.6 g, 100%).

reactant | benzyloxycarbonylamino-hydroxy-acetic acid | 26.2 mmol, 5.9 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)O | C10H11NO5
reactant | 2-methylanisole | 26.2 mmol, 3.2 g | CC1=C(C=CC=C1)OC | C8H10O
reactant | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | benzyloxycarbonylamino-(4-methoxy-3-methyl-phenyl)-acetic acid | 8.6 g, 100% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1=CC(=C(C=C1)OC)C | C18H19NO5
